US08669255B2
tert-butyl (7S,8aS)-7-{[6-(trifluoromethyl)pyridin-2-yl]amino}hexahydro-pyrrolo[1,2-a]pyrazine-2(1H)-carboxylate
To (7S,8aS)-tert-butyl 7-aminohexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate (310 mg, 1.29 mmol) and sodium carbonate (0.26 g, 2.5 mmol) in dimethyl sulfoxide (1 mL) was added 2-chloro-6-(trifluoromethyl)pyridine (0.35 g, 1.93 mmol). The mixture was stirred at 100° C. for 3 days and then concentrated. The residue was purified by chromatography on silica gel (100% ethyl acetate) to provide the title compound. MS (ESI) m/z 387 (M+H)+.

reactant | (7S,8aS)-tert-butyl 7-aminohexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 1.29 mmol, 310 mg | N[C@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C12H23N3O2
reactant | sodium carbonate | 2.5 mmol, 0.26 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloro-6-(trifluoromethyl)pyridine | 1.93 mmol, 0.35 g | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
solvent | dimethyl sulfoxide | 1 mL | CS(=O)C | C2H6OS
product | tert-butyl (7S,8aS)-7-{[6-(trifluoromethyl)pyridin-2-yl]amino}hexahydro-pyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | FC(C1=CC=CC(=N1)N[C@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1)(F)F | C18H25F3N4O2
